US07253196B2
5-Isopropyl-2-(tricyclo[3.3.1.0˜3,7˜]non-3-ylamino)-1,3-thiazol-4(5H)-one
Synthesis was performed from N-tricyclo[3.3.1.0˜3,7˜]non-3-ylthiourea and ethyl 2-bromo-3-methylbutanoate according to Method C.

reactant | N-tricyclo[3.3.1.0˜3,7˜]non-3-ylthiourea | C12CC3(CC(CC3C1)C2)NC(=S)N | C10H16N2S
reactant | ethyl 2-bromo-3-methylbutanoate | BrC(C(=O)OCC)C(C)C | C7H13BrO2
product | 5-Isopropyl-2-(tricyclo[3.3.1.0˜3,7˜]non-3-ylamino)-1,3-thiazol-4(5H)-one | C(C)(C)C1C(N=C(S1)NC12CC3CC2CC(C1)C3)=O | C15H22N2OS
